US03962438
8-Trifluoromethylphenothiazine-1-carboxylic acid (62.2 g., 0.20 mol.) was added to a stirred mixture of 300 ml. of chloroform and 300 ml. of phosphorus trichloride. The resulting brown suspension was cooled in an ice-bath while 50 ml. of dimethylformamide was added slowly until a reddish brown solution formed. After stirring the mixture for 4 hours at 25°, the chloroform and excess phosphorus trichloride were evaporated under reduced pressure. The resulting reddish brown solid residue was dissolved in 1500 ml. of boiling n-hexane. The hot, clear, reddish solution was decanted from a viscous, insoluble material and, on cooling, large red needles formed. The solid was collected by filtration and washed with hexane to give 8-trifluoromethylphenothiazine-1-carboxylic acid chloride, m.p. 124°-126°.

reactant | 8-Trifluoromethylphenothiazine-1-carboxylic acid | 0.20 mol, 62.2 g | FC(C1=CC=C2SC=3C=CC=C(C3NC2=C1)C(=O)O)(F)F | C14H8F3NO2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-trifluoromethylphenothiazine-1-carboxylic acid chloride | FC(C1=CC=C2SC=3C=CC=C(C3NC2=C1)C(=O)Cl)(F)F | C14H7ClF3NOS
